US07749972B2
A mixture of 1-[2-(4-hydroxyphenyl)ethyl]-7-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indole (0.2 g), cesium carbonate (0.17 g) and 1-bromo-3-chloropropane (0.05 mL) in acetone (4 mL) was stirred at room temperature overnight. The reaction mixture was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=6/1) to give 1-{2-[4-(3-chloropropoxy)phenyl]ethyl}-7-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indole (0.21 g). This material was dissolved in acetonitrile (6 mL). To the solution was added sodium iodide (46 mg), and the mixture was heated for reflux overnight. To the reaction mixture were added tris(hydroxymethyl)aminomethane (0.31 g) and ethanol (4 mL), and the mixture was stirred at 60° C. for 2 days. The reaction mixture was purified by column chromatography on aminopropylated silica gel (eluent: methylene chloride/methanol=30/1-5/1) to give 1-[2-(4-{3-[2-hydroxy-1,1-bis(hydroxymethyl)ethyl-amino]propoxy}phenyl)ethyl]-7-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indole (0.13 g). This material was dissolved in methanol (3 mL). To the solution were added water (0.3 mL) and lithium hydroxide monohydrate (24 mg), and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction method on ODS (washing solvent: distilled water, eluent: methanol) to give the title compound (71 mg).

reactant | 1-[2-(4-hydroxyphenyl)ethyl]-7-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indole | 0.2 g | OC1=CC=C(C=C1)CCN1C=CC2=CC=CC(=C12)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C42H57NO11
reactant | cesium carbonate | 0.17 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-bromo-3-chloropropane | 0.05 mL | BrCCCCl | C3H6BrCl
solvent | acetone | 4 mL | CC(=O)C | C3H6O
product | 1-{2-[4-(3-chloropropoxy)phenyl]ethyl}-7-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indole | 0.21 g | ClCCCOC1=CC=C(C=C1)CCN1C=CC2=CC=CC(=C12)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C45H62ClNO11
